US09399647B2
The LiOH (0.615 g, 0.0150 mol) was added to a solution of [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diaza-benz[a]azulen-2-yl]-acetic acid ethyl ester (1.8 g, 0.0050 mol) in 20 ml of (5:1) THF:water, and the mixture was stirred for 18 h at ambient temperature. The solvent was reduced under vacuum and the residue was diluted with 50 ml dilute aqueous HCl. The mixture was extracted with dichloromethane (50 ml×3) and the combined organic phase was separated, dried over Na2SO4 and concentrated under vacuum. The crude was purified by chromatography on silica gel using 2% MeOH-DCM to give [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diazabenz[a]azulen-2-yl]-acetic acid (1.5 g, 94%) as pale yellow oil. 1H NMR (400 MHz, CDCl3): δ 15.52 (brs, 1H), 3.96 (s, 2H), 3.09 (s, 3H), 2.85-2.98 (m, 4H), 2.72-2.80 (m, 1H), 1.85-1.95 (m, 2H), 1.68-1.78 (m, 2H), 1.85-1.67 (m, 2H), 0.88-0.98 (m, 2H), 0.52-0.67 (m, 2H); LC-MS: [M+H]=332.2 m/z.

reactant | LiOH | 0.0150 mol, 0.615 g | [Li+].[OH-]
reactant | [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diaza-benz[a]azulen-2-yl]-acetic acid ethyl ester | 0.0050 mol, 1.8 g | C(C)OC(CC1=NC2=C(C=3CCCCCC3S2)C(=N1)N(C)C1CC1)=O | C19H25N3O2S
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HCl | 50 ml | Cl | ClH
product | [4-(cyclopropyl-methyl-amino)-6,7,8,9-tetrahydro-5H-10-thia-1,3-diazabenz[a]azulen-2-yl]-acetic acid | 1.5 g, 94% | C1(CC1)N(C1=NC(=NC2=C1C=1CCCCCC1S2)CC(=O)O)C | C17H21N3O2S
